US08623889B2
Step 2: methyl 4-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-2-fluoro-5-methylbenzoate
A mixture of N-[7-(4-bromo-5-fluoro-2-methyl-phenyl)-3-isoquinolyl]cyclopropanecarboxamide (385 mg, 0.964 mmol), 1,3-bis(dicyclohexylphosphino)propane bis(tetrafluoroborate) (61 mg, 0.096 mmol), palladium(II) acetate (11 mg, 0.048 mmol), potassium carbonate (202 mg, 1.45 mmol), and methanol (0.78 mL, 19.3 mmol) in DMF (1 mL) was evacuated and then filled with nitrogen (3×), and then evacuated and filled with carbon monoxide (2×). The reaction mixture was then heated at 100° C. for 2 hours under a balloon of carbon monoxide. The cooled reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (4 g, Silica, 0-100% ethyl acetate in heptane). Desired fractions were combined and evaporated in vacuo to afford the title compound as a white solid (285, 78%), which was used in the next step without further purification.

reactant | N-[7-(4-bromo-5-fluoro-2-methyl-phenyl)-3-isoquinolyl]cyclopropanecarboxamide | 0.964 mmol, 385 mg | BrC1=CC(=C(C=C1F)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C20H16BrFN2O
reactant | 1,3-bis(dicyclohexylphosphino)propane bis(tetrafluoroborate) | 0.096 mmol, 61 mg | F[B-](F)(F)F.F[B-](F)(F)F.C1(CCCCC1)P(CCCP(C1CCCCC1)C1CCCCC1)C1CCCCC1
reactant | potassium carbonate | 1.45 mmol, 202 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 19.3 mmol, 0.78 mL | CO | CH4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.048 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-(3-(cyclopropanecarboxamido)isoquinolin-7-yl)-2-fluoro-5-methylbenzoate | 78% | C1(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C1=CC(=C(C(=O)OC)C=C1C)F | C22H19FN2O3
